US07435837B2
Treatment of (±)-[7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (3.59 g, 12.1 mmol) with p-toluenesulfonyl chloride (3.6 g, 18.2 mmol) generally according to described for Intermediate 10 provided 3.82 g (70%) (±)-[7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. mp 95-97° C.

reactant | (±)-[7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 12.1 mmol, 3.59 g | BrC1=CC(=CC=2CC(OC21)CO)C(F)(F)F | C10H8BrF3O2
reactant | p-toluenesulfonyl chloride | 18.2 mmol, 3.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-[7-bromo-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.82 g, 70% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2Br)C(F)(F)F | C17H14BrF3O4S
